US07557213B2
1g (4.02 mmol) of the crude 2-(3,4-Dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester and 0.38 g (4.02 mmol) of 3-aminopyridine were heated neat at 100° C. for 2 h. The product crystallized upon cooling the reaction to rt to yield 1.12 g of 2-(3,4-Dimethyl-benzoyl)-3-(pyridin-3-ylamino)-acrylic acid methyl ester as brown crystalline solid.

reactant | 2-(3,4-Dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester | COC(C(=COC)C(C1=CC(=C(C=C1)C)C)=O)=O | C14H16O4
reactant | 3-aminopyridine | 4.02 mmol, 0.38 g | NC=1C=NC=CC1 | C5H6N2
product | 2-(3,4-Dimethyl-benzoyl)-3-(pyridin-3-ylamino)-acrylic acid methyl ester | 1.12 g | COC(C(=CNC=1C=NC=CC1)C(C1=CC(=C(C=C1)C)C)=O)=O | C18H18N2O3
